US04165378
A solution of 1,3-dichloroacetone (3.02 g.) in acetone (10 ml.) was added to a stirred suspension of (N-n-butylamidino)thiourea (4.04 g.) in acetone (25 ml.) at room temperature. The resulting clear pale yellow solution was stirred for three days, then cooled in ice, and the precipitated solid filtered off and washed with acetone to give 2-(2-n-butylguanidino)-4-chloromethylthiazole hydrochloride

reactant | 1,3-dichloroacetone | 3.02 g | ClCC(=O)CCl | C3H4Cl2O
reactant | (N-n-butylamidino)thiourea | 4.04 g | C(CCC)NC(=N)NC(=S)N | C6H14N4S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2-(2-n-butylguanidino)-4-chloromethylthiazole hydrochloride | Cl.C(CCC)N=C(NC=1SC=C(N1)CCl)N | InChI=1S/C9H15ClN4S.ClH/c1-2-3-4-12-8(11)14-9-13-7(5-10)6-15-9;/h6H,2-5H2,1H3,(H3,11,12,13,14);1H
